.subckt fsdphq_x1 Q CK D SI SE EN VDD VSS
XFSDPHQ_sei_P0 FSDPHQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDPHQ_sei_N0 FSDPHQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDPHQ_smx_MP0 FSDPHQ_din SE D VDD pmos w=2u l=100n
XFSDPHQ_smx_MN0 FSDPHQ_din FSDPHQ_se_b D VSS nmos w=1u l=100n
XFSDPHQ_smx_MP1 FSDPHQ_din FSDPHQ_se_b SI VDD pmos w=2u l=100n
XFSDPHQ_smx_MN1 FSDPHQ_din SE SI VSS nmos w=1u l=100n
XFSDPHQ_eni_P0 FSDPHQ_en_b EN VDD VDD pmos w=2u l=100n
XFSDPHQ_eni_N0 FSDPHQ_en_b EN VSS VSS nmos w=1u l=100n
XFSDPHQ_emx_MP0 FSDPHQ_ed EN Q VDD pmos w=2u l=100n
XFSDPHQ_emx_MN0 FSDPHQ_ed FSDPHQ_en_b Q VSS nmos w=1u l=100n
XFSDPHQ_emx_MP1 FSDPHQ_ed FSDPHQ_en_b FSDPHQ_din VDD pmos w=2u l=100n
XFSDPHQ_emx_MN1 FSDPHQ_ed EN FSDPHQ_din VSS nmos w=1u l=100n
XFSDPHQ_ck_P0 FSDPHQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPHQ_ck_N0 FSDPHQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPHQ_m_in_P FSDPHQ_m_n1 CK FSDPHQ_ed VDD pmos w=2u l=100n
XFSDPHQ_m_in_N FSDPHQ_m_n1 FSDPHQ_ck_b FSDPHQ_ed VSS nmos w=1u l=100n
XFSDPHQ_m_i1_P0 FSDPHQ_m_n2 FSDPHQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDPHQ_m_i1_N0 FSDPHQ_m_n2 FSDPHQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDPHQ_m_i2_P0 FSDPHQ_m_n1 FSDPHQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_m_i2_N0 FSDPHQ_m_n1 FSDPHQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_m_fb_P FSDPHQ_m_n1 FSDPHQ_ck_b FSDPHQ_m_n2 VDD pmos w=2u l=100n
XFSDPHQ_m_fb_N FSDPHQ_m_n1 CK FSDPHQ_m_n2 VSS nmos w=1u l=100n
XFSDPHQ_m_o_P0 FSDPHQ_qm FSDPHQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_m_o_N0 FSDPHQ_qm FSDPHQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_s_in_P FSDPHQ_s_n1 FSDPHQ_ck_b FSDPHQ_qm VDD pmos w=2u l=100n
XFSDPHQ_s_in_N FSDPHQ_s_n1 CK FSDPHQ_qm VSS nmos w=1u l=100n
XFSDPHQ_s_i1_P0 FSDPHQ_s_n2 FSDPHQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDPHQ_s_i1_N0 FSDPHQ_s_n2 FSDPHQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDPHQ_s_i2_P0 FSDPHQ_s_n1 FSDPHQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_s_i2_N0 FSDPHQ_s_n1 FSDPHQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPHQ_s_fb_P FSDPHQ_s_n1 CK FSDPHQ_s_n2 VDD pmos w=2u l=100n
XFSDPHQ_s_fb_N FSDPHQ_s_n1 FSDPHQ_ck_b FSDPHQ_s_n2 VSS nmos w=1u l=100n
XFSDPHQ_s_o_P0 Q FSDPHQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPHQ_s_o_N0 Q FSDPHQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdphq_x1
